US04209616
To a solution of t-butyl 3-acetoxymethyl-7β-aminoceph-3-em-4-carboxylate (3.28 g) in ethyl acetate (25 ml.) was added a solution of 2-dichloroacetoxyimino-2-phenylacetyl chloride (syn-isomer) in ethyl acetate (25 ml.) dropwise with stirring. The solution became warm and a precipitate formed. After two hours, the solution was filtered, washed successively with 2 N-hydrochloric acid, water, and saturated sodium bicarbonate solution, dried, and evaporated to give a yellow foam which solidified on standing, and was triturated with petroleum spirit giving t-butyl 3-acetoxymethyl-7β-(2-dichloroacetoxyimino-2-phenylacetamido)-ceph-3-em-4-carboxylate (4.0 g; 70%), νmax. (CHBr3) 3420 (NH), 1796 (β-lactam), 1730 and 1230 (acetate), 1700 and 1512 cm-1 (CONH), τ (DMSO-d6) values include 2.1-2.5 (multiplet; aromatic protons), 2.98 (singlet; CHCl2), 7.6 (singlet; CH3CO), 8.5 (singlet; t-butyl ester).

reactant | t-butyl 3-acetoxymethyl-7β-aminoceph-3-em-4-carboxylate | 3.28 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2N)=O | C14H20N2O5S
reactant | 2-dichloroacetoxyimino-2-phenylacetyl chloride | ClC(C(=O)ON=C(C(=O)Cl)C1=CC=CC=C1)Cl | C10H6Cl3NO3
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | t-butyl 3-acetoxymethyl-7β-(2-dichloroacetoxyimino-2-phenylacetamido)-ceph-3-em-4-carboxylate | 4.0 g, 70% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(C(C2=CC=CC=C2)=NOC(C(Cl)Cl)=O)=O)=O | C24H25Cl2N3O8S
